US05356885
(R)-2-[[[(1,1-Dimethylethyl)dimethylsilyl]oxy]methyl]-1-pyrrolidinecaboxylic acid phenylmethyl ester
The title compound is prepared by the procedure of Example 50 using 20.0 g of (R)-2-pyrrolidinemethanol, 44.0 g of benzyl chloroformate and 200 ml of diethyl ether to give 56.4 g of (R)-2-hydroxymethyl-1-pyrrolidine carboxylic acid phenyl methyl ester. Forty-five g of (R)-2-hydroxymethyl-1-pyrrolidine carboxylic acid phenylmethyl ester is reacted with 38.4 g of (1,1-dimethylethyl)dimethylsilylchloride, 58 ml of triethylamine, 1.3 g of 4-(dimethylamino)pyridine and 450 ml of methylene chloride to give 41.5 g of the desired product as a colorless oil. [α]D26° =+45° (methylene chloride).

reactant | (R)-2-hydroxymethyl-1-pyrrolidine carboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)N1[C@H](CCC1)CO | C13H17NO3
reactant | (1,1-dimethylethyl)dimethylsilylchloride | 38.4 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 58 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 1.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-[[[(1,1-Dimethylethyl)dimethylsilyl]oxy]methyl]-1-pyrrolidinecaboxylic acid phenylmethyl ester | 41.5 g | C1(=CC=CC=C1)COC(=O)N1[C@H](CCC1)CO[Si](C)(C)C(C)(C)C | C19H31NO3Si
